US04250085
In a manner analogous to that described in Example 7(A)(ii) from the monobenzylamine salt of (1R)-1-[(N-benzyloxycarbonyl-N-methyl-L-norvalyl-L-norvalyl)amino]-ethylphosphonic acid there was obtained (1R)-1-(N-methyl-L-norvalyl-L-norvalylamino)-ethylphosphonic acid of melting point 294°-295° C. (decomposition); [α]D20 =-52.6°; [α]36520 =-190° (c=0.5%, freshly prepared in 0.1-N sodium hydroxide).

reactant | monobenzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-benzyloxycarbonyl-N-methyl-L-norvalyl-L-norvalyl)amino]-ethylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N([C@@H](CCC)C(=O)N[C@@H](CCC)C(=O)N[C@@H](C)P(O)(O)=O)C | C21H34N3O7P
product | (1R)-1-(N-methyl-L-norvalyl-L-norvalylamino)-ethylphosphonic acid | CN[C@@H](CCC)C(=O)N[C@@H](CCC)C(=O)N[C@@H](C)P(O)(O)=O | C13H28N3O5P
